US05411877
A mixture of (3R)-2-methyl-3-hydroxybutanoic acid 3.6 g, chloral 8.3 g, pyridinium p-toluenesulfonate (PPTS) 0.7 g and dichloromethane 20 ml was refluxed for 25 hours under a dehydration condition. 40 ml of a saturated aqueous sodium hydrogen carbonate was added thereto and the resulting separated organic phase was dried over anhydrous magnesium sulfate and the solvent was distilled off to obtain 6.3 g of (2R, 6R)-2-trichloromethyl-5,6-dimethyl-1,3-dioxan-4-one.

reactant | (3R)-2-methyl-3-hydroxybutanoic acid | 3.6 g | CC(C(=O)O)[C@@H](C)O | C5H10O3
reactant | chloral | 8.3 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | pyridinium p-toluenesulfonate | 0.7 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium hydrogen carbonate | 40 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2R, 6R)-2-trichloromethyl-5,6-dimethyl-1,3-dioxan-4-one | 6.3 g | ClC([C@@H]1O[C@@H](C(C(O1)=O)C)C)(Cl)Cl | C7H9Cl3O3
